US05495020
Employing ethyl 3-chloro-2,4,5-trifluoro-6-methylbenzoylacetate (300 mg) and ethyl orthoformate (550 mg), the procedure of Reference Example 20 is repeated to give ethyl 2-(3-chloro-2,4,5-trifluoro-6-methylbenzoyl)-3-ethoxyacrylate (360 mg), as brown oil.

reactant | ethyl 3-chloro-2,4,5-trifluoro-6-methylbenzoylacetate | 300 mg | ClC=1C(=C(C(=O)CC(=O)OCC)C(=C(C1F)F)C)F | C12H10ClF3O3
reactant | ethyl orthoformate | 550 mg | C(OCC)([O-])[O-]
product | ethyl 2-(3-chloro-2,4,5-trifluoro-6-methylbenzoyl)-3-ethoxyacrylate | 360 mg | ClC=1C(=C(C(=O)C(C(=O)OCC)=COCC)C(=C(C1F)F)C)F | C15H14ClF3O4
